US07524849B2
A mixture of the above 2,4,6-trichloro-5-(2,4,6-trifluorophenyl)pyrimidine (104 mg), imidazole (23 mg, 0.33 mmol), and potassium carbonate (92 mg, 0.66 mmol) in 2 mL of N,N-dimethylformamide is stirred at room temperature for 3 h. The mixture is partitioned between ethyl acetate and saturated sodium chloride. The organic layer is washed with saturated sodium chloride (×4), dried over magnesium sulfate, and concentrated. The residue is chromatographed over silica gel, eluting with a gradient of hexanes to 50% ethyl acetate in hexanes. Concentration provides 4,6-dichloro-2-(1H-imidazol-1-yl)-5-(2,4,6-trifluorophenyl)pyrimidine as a tan solid (71 mg, mp 72-74° C.). MS: m/z 345.2 (M+H).

reactant | 2,4,6-trichloro-5-(2,4,6-trifluorophenyl)pyrimidine | 104 mg | ClC1=NC(=C(C(=N1)Cl)C1=C(C=C(C=C1F)F)F)Cl | C10H2Cl3F3N2
reactant | imidazole | 0.33 mmol, 23 mg | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 0.66 mmol, 92 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4,6-dichloro-2-(1H-imidazol-1-yl)-5-(2,4,6-trifluorophenyl)pyrimidine | 71 mg | ClC1=NC(=NC(=C1C1=C(C=C(C=C1F)F)F)Cl)N1C=NC=C1 | C13H5Cl2F3N4
